### PR TITLE
feat(ErdosProblems): Add proof to trivial lemma of 859

### PR DESCRIPTION
**Pull request by felixpernegger**

### CODE REVIEW

File: FormalConjectures/ErdosProblems/859.lean [hunk 1]
```diff
@@ -59,7 +59,10 @@ A case where we can easily calculate the density of `DivisorSumSet t` is that of
 -/
 @[category high_school, AMS 11]
 lemma erdos_859.variants.trivial_case : DivisorSumSet 0 = Set.univ := by
-  sorry
+  ext
+  simp only [DivisorSumSet, Set.mem_setOf_eq, Set.mem_univ, iff_true]
+  use ∅
+  simp only [Finset.empty_subset, Finset.sum_empty, and_self]
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/859.lean]:
```suggestion
  simp [DivisorSumSet, Exists.intro ∅]
```

golfing...

**Review by mo271 — APPROVED** [review]
